US06245761B1
Preparation of N,N-dimethyl-2-fluoro-5-bromobenzylamine
In a 50 ml flask, under a nitrogen atmosphere, 2-fluoro-5-bromobenzyl bromide (1.264 g, 4.72 mmol) was dissolved in methanol (10 ml). Dimethylamine (8 M in H2O, 1.77 ml, 14.2 mmol) was added as a solution in methanol (5 ml), and the resulting mixture was stirred at ambient temperature for about two hours. The progress of the reaction was monitored by thin layer chromatography. The methanol was removed by evaporation. The residue was partitioned between 1 M potassium carbonate and diethyl ether. The aqueous fraction was back extracted with diethyl ether. The organic fractions were combined, washed with brine (7×) and dried over sodium sulfate. The solvents were removed in vacuo. The title intermediate was used without further purification.

reactant | 2-fluoro-5-bromobenzyl bromide | 4.72 mmol, 1.264 g | FC1=C(CBr)C=C(C=C1)Br | C7H5Br2F
reactant | Dimethylamine | 14.2 mmol, 8 M, 1.77 ml | CNC | C2H7N
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | N,N-dimethyl-2-fluoro-5-bromobenzylamine | CN(C)CC1=C(C=CC(=C1)Br)F | C9H11BrFN
